US08975398B2
(R)-tert-butyl 3-(4-(1-(6-methylpyridazin-3-yl)azetidine-3-carboxamido)phenoxy)pyrrolidine-1-carboxylate
The title compound was prepared as described in Example 1A, substituting (R)-tert-butyl 3-(4-aminophenoxy)pyrrolidine-1-carboxylate for tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate and 1-(6-methylpyridazin-3-yl)azetidine-3-carboxylic acid for 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid.

reactant | tert-butyl 4-(4-aminophenoxy)piperidine-1-carboxylate | NC1=CC=C(OC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C16H24N2O3
reactant | 1-(6-methylpyridazin-3-yl)azetidine-3-carboxylic acid | CC1=CC=C(N=N1)N1CC(C1)C(=O)O | C9H11N3O2
reactant | 1-(benzyloxycarbonyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)OC(=O)N1CC(C1)C(=O)O | C12H13NO4
product | (R)-tert-butyl 3-(4-(1-(6-methylpyridazin-3-yl)azetidine-3-carboxamido)phenoxy)pyrrolidine-1-carboxylate | CC1=CC=C(N=N1)N1CC(C1)C(=O)NC1=CC=C(O[C@H]2CN(CC2)C(=O)OC(C)(C)C)C=C1 | C24H31N5O4
